US07098356B2
2-neopentylindene.
To a mixture of 2-bromoindene (7.5 g, 39 mmol) and 2.5 g of NiCl2(PPh3)2 in 150 mL of THF was added over 1 hour 50 mL of neopentyl magnesium chloride (1.0 M in THF; 50 mmol). The mixture was stirred overnight and then quenched by adding 150 mL of 1.0 M aqueous hydrochloric acid. The product was isolated and purified (hexanes/silica) as for 2-benzyl-indene. Yield: 4.75 g, 66 percent

reactant | 2-bromoindene | 39 mmol, 7.5 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | neopentyl magnesium chloride | 50 mmol, 1.0 M, 50 mL | C(C(C)(C)C)[Mg]Cl
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | NiCl2(PPh3)2 | 2.5 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-neopentylindene | C(C(C)(C)C)C=1CC2=CC=CC=C2C1 | C14H18
